US08420670B2
N-{2-[4-(3,4-Dichlorobenzylamino)-2-methylquinolin-8-yloxy]-ethyl}-acetamide
Preparation was made using a similar procedure as described in example 21. Starting materials were [8-(2-aminoethoxy)-2-methylquinolin-4-yl]-(3,4-dichlorobenzyl)-amine dihydrochloride and acetylchloride.

reactant | [8-(2-aminoethoxy)-2-methylquinolin-4-yl]-(3,4-dichlorobenzyl)-amine dihydrochloride | Cl.Cl.NCCOC=1C=CC=C2C(=CC(=NC12)C)NCC1=CC(=C(C=C1)Cl)Cl
reactant | acetylchloride | C(C)(=O)Cl | C2H3ClO
product | N-{2-[4-(3,4-Dichlorobenzylamino)-2-methylquinolin-8-yloxy]-ethyl}-acetamide | ClC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)OCCNC(C)=O)C)C=CC1Cl | C21H21Cl2N3O2
